US08048887B2
To a 100 mL round-bottomed flask was added methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate (350.5 mg, 0.783 mmol) in DCM (8 mL). To this solution was then added, under nitrogen, a 1M solution of boron trichloride (3.92 mL, 3.92 mmol) and the mixture was stirred overnight at room temperature. The reaction mixture was cooled in an ice bath and 10 mL of methanol was slowly added. The solvent was removed under vacuum. The flask was again cooled, 25 mL of ice cold methanol was added and the resulting solid was filtered to give 264.5 mgs (78% yield) of methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-hydroxy-4-methylbenzoate as an ivory colored solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. 1H NMR (400 MHz, DMF-d7) δ ppm 2.30 (s, 3H), 2.95 (d, J=4.77 Hz, 3H), 3.98 (s, 3H), 7.02 (s, 1H), 7.38-7.48 (m, 3H), 7.68-7.73 (m, 2H), 7.76 (d, J=8.53 Hz, 1H), 8.08-8.15 (m, 2H), 8.33 (br. s., 1H). LCMS Rt=3.636, m/z 434.3 (M+H), 100% purity.

reactant | methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoate | 0.783 mmol, 350.5 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)OC)C2)OC)C | C26H22FNO5
reactant | boron trichloride | 3.92 mmol, 3.92 mL | B(Cl)(Cl)Cl | BCl3
reactant | methanol | 10 mL | CO | CH4O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-hydroxy-4-methylbenzoate | 264.5 mgs, 78% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)OC)C2)O)C | C25H20FNO5
